US08871756B2
N-(Azetidin-3-yl)-6-methyl-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-amine
The title compound was prepared in analogy to Example 93-1 in Scheme 44 by using 6-methyl-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4(3H)-one and tert-butyl 3-aminoazetidine-1-carboxylate. MS obsd. (ESI+) [(M+H)+] 410.1, 1H NMR (400 MHz, DMSO-d6) δ ppm 8.24 (s, 1 H), 7.87 (s, 2 H), 7.79 (s, 1 H), 7.62 (brs, 1 H), 7.45 (s, 1 H), 7.34 (d, J=8.4 Hz, 1 H), 7.22 (brs, 1 H), 5.06-4.42 (m, 5 H), 3.85 (brs, 1 H), 3.59 (m, 5 H), 2.32 (s, 3 H).

reactant | 6-methyl-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4(3H)-one | CC=1C=C2C(NC(=NC2=CC1)N1CCS(C2=C(C1)C=CC=C2)(=O)=O)=O | C18H17N3O3S
reactant | tert-butyl 3-aminoazetidine-1-carboxylate | NC1CN(C1)C(=O)OC(C)(C)C | C8H16N2O2
product | N-(Azetidin-3-yl)-6-methyl-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-amine | N1CC(C1)NC1=NC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C21H23N5O2S
